US05985849
5-((9-Ethylcarbazol-3-yl)hydroxymethyl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine was prepared from 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine according to the method of Example 1 step (i) (using 9-ethyl-3-carbazolecarboxaldehyde instead of benzophenone) as a yellow foam.

reactant | 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | CC(C)(C)[Si](O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C=C1)(C)C | C27H54N2O6Si3
reactant | 9-ethyl-3-carbazolecarboxaldehyde | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C=O | C15H13NO
product | 5-((9-Ethylcarbazol-3-yl)hydroxymethyl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C(C=1C(NC(N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C1)=O)=O)O | C42H67N3O7Si3
